US08624043B2
Diesel fuels by hydrogenation combined with dehydration over a bi-functional catalyst containing metal (e.g., Fe, Co, Ni, Ru, Rh, Pd, Os, Ir, Pt, Ag, Au, and combinations thereof) and acid sites (e.g., silica-alumina, etc.) (Huber (2007), West (2008)). Alternatively, the stream of 5-nonanone can undergo hydrogenation over a Ru/C catalyst operating at 423 K to produce 5-nonanol, followed by dehydration over an acid catalyst at 423 K (e.g., ZSM-5) to produce nonene. Importantly, all of these C9 compounds spontaneously separate from water. The water may then be recycled back to the GVL stream entering the reactor containing the Pd/niobia catalyst. The liquid stream of linear nonene undergoes isomerization over a zeolite catalyst (e.g., ZSM-5 at 523 K) to produce branched C9-olefins (or alkanes upon subsequent hydrogenation) for use as gasoline components. Alternatively, nonene undergoes dimerization over an acid catalyst (e.g., “AMBERLYST”-brand catalysts at 433 K) to produce a mixture of C9 and C18 olefins (or alkanes upon subsequent hydrogenation) for use in jet and Diesel fuels. (“AMBERLYST” is a registered trademark of Rohm & Haas Company, a wholly owned subsidiary of Dow Chemical Company.)

reactant | 5-nonanone | CCCCC(CCCC)=O | C9H18O
catalyst | Ru/C | [Ru] | Ru
catalyst | Fe | [Fe] | Fe
catalyst | Ni | [Ni] | Ni
catalyst | Pd | [Pd] | Pd
product | 5-nonanol | CCCCC(CCCC)O | C9H20O
